US04587341
G. 2,4-Diamino-5-(4,8-dimethoxy-2-methyl-6-quinolylmethyl)pyrimidine
The aldehyde from above was converted to 2-(4,8dimethoxy-2-methyl-6-quinolylmethyl)-3-anilinoacrylonitrile with anilinopropionitrile and sodium methylate in dimethyl sulfoxide on a 1.4 mmol scale in the same manner as in Example 5-A. The crude product from this reaction was condensed with guanidine hydrochloride and sodium methylate in ethanol as in Example 5-B to give the crude product.

reactant | 2-(4,8dimethoxy-2-methyl-6-quinolylmethyl)-3-anilinoacrylonitrile | COC1=CC(=NC2=C(C=C(C=C12)CC(C#N)=CNC1=CC=CC=C1)OC)C | C22H21N3O2
reactant | anilinopropionitrile | N(C1=CC=CC=C1)C(C#N)C | C9H10N2
reactant | sodium methylate | C[O-].[Na+]
reactant | guanidine hydrochloride | Cl.NC(=N)N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | ethanol | C(C)O | C2H6O
product | 2,4-Diamino-5-(4,8-dimethoxy-2-methyl-6-quinolylmethyl)pyrimidine | NC1=NC=C(C(=N1)N)CC=1C=C2C(=CC(=NC2=C(C1)OC)C)OC | C17H19N5O2
